US04960888
Preparation of 6-amino-1,2-dihydro-1-hydroxy-2-imino-4-piperidinopyrimidine
0 5 g (2 mmoles) of 6-acetamido-1,2-dihydro-1-hydroxy-2-imino-4-piperidinopyrimidine prepared as described in Example 6 is dissolved in a mixture containing 10 ml of ethanol and 4 ml of 1N sodium hydroxide solution, the mixture is refluxed for 30 minutes, then evaporated under reduced pressure. After taking up the residue in 10 ml of water, the crystals are filtered, washed with water and dried to give the aimed compound in a yield of 0.35 g (85%), which shows no melting point depression when mixed with the product of Example 1.

reactant | 6-acetamido-1,2-dihydro-1-hydroxy-2-imino-4-piperidinopyrimidine | C(C)(=O)NC1=CC(=NC(N1O)=N)N1CCCCC1 | C11H17N5O2
reactant | sodium hydroxide | 1N, 4 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-amino-1,2-dihydro-1-hydroxy-2-imino-4-piperidinopyrimidine | NC1=CC(=NC(N1O)=N)N1CCCCC1 | C9H15N5O
